US07618996B2
Preparation of Intermediate 4-(2,2-Dimethyl-4-oxo-4H-benzo[1,3]dioxin-7-yloxy)-3,5-difluoro-benzaldehyde (I-1b-2)
7-Hydroxy-2,2-dimethyl-benzo[1,3]dioxin-4-one (I-1a: 12.9 g) and 3,4,5-trifluorobenzaldehyde (5.0 g) and potassium carbonate (27.6 g) were combined in dimethylformamide (100 mL) and stirred as the reaction mixture was heated to 80° C. After 24 hours, the reaction mixture was cooled to ambient temperature, combined with water, and extracted with ethyl acetate. The combined organic phases were dried over magnesium sulfate, filtered, and evaporated. The residue was purified by column chromatography on silica gel eluting with 5-10% ethyl acetate in heptane to give the title compound (I-1b-2).

reactant | 7-Hydroxy-2,2-dimethyl-benzo[1,3]dioxin-4-one | 12.9 g | OC1=CC2=C(C(OC(O2)(C)C)=O)C=C1 | C10H10O4
reactant | 3,4,5-trifluorobenzaldehyde | 5.0 g | FC=1C=C(C=O)C=C(C1F)F | C7H3F3O
reactant | potassium carbonate | 27.6 g | C([O-])([O-])=O.[K+].[K+]
reactant | water | O | H2O
solvent | dimethylformamide | 100 mL | CN(C=O)C | C3H7NO
product | 4-(2,2-Dimethyl-4-oxo-4H-benzo[1,3]dioxin-7-yloxy)-3,5-difluoro-benzaldehyde | CC1(OC2=C(C(O1)=O)C=CC(=C2)OC2=C(C=C(C=O)C=C2F)F)C | C17H12F2O5
